US05589478
To a suspension of sodium hydride (0.25 g) in tetrahydrofuran (5 ml) is added dropwise a solution of 4-tert-butyl-N-[6-(2-hydroxyethoxy)-5-(4-methylphenyl)-2-n-propylpyrimidin-4-yl]benzenesulfonamide (1.00 g) in dimethylacetamide (3 ml) and tetrahydrofuran (10 ml) at room temperature, and thereto is added 2-chloro-5-bromopyrimidine (0.56 g), and the mixture is stirred at room temperature for 2.5 hours. The reaction mixture is acidified with ice-cold diluted hydrochloric acid, and extracted with ethyl acetate. The extract is washed, dried, and evaporated to remove the solvent. The resulting oily product is purified by silica gel column chromatography (solvent; chloroform), and crystallized from n-hexane to give 4-tert-butyl-N-[6-{2-(5-bromopyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)-2-n-propylpyrimidin-4-yl]benzenesulfonamide (1.21 g) as crystals.

reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | 4-tert-butyl-N-[6-(2-hydroxyethoxy)-5-(4-methylphenyl)-2-n-propylpyrimidin-4-yl]benzenesulfonamide | 1.00 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1C1=CC=C(C=C1)C)OCCO)CCC | C26H33N3O4S
reactant | 2-chloro-5-bromopyrimidine | 0.56 g | ClC1=NC=C(C=N1)Br | C4H2BrClN2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-tert-butyl-N-[6-{2-(5-bromopyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)-2-n-propylpyrimidin-4-yl]benzenesulfonamide | 1.21 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)Br)CCC | C30H34BrN5O4S
